US07745641B2
1-(tert-Butoxycarbonyl)-4-piperidinone (400 mg, 2.01 mmol) was dissolved in methanol (4 mL), and the solution was added with 10% hydrogen chloride-methanol solution (4 mL), followed by stirring at 50° C. for 2 hours. The reaction mixture was added with diisopropyl ether and the precipitated solid was collected by filtration, washed with diisopropyl ether and then dried under reduced pressure to obtain 4,4-dimethoxypiperidine hydrochloride (238 mg, yield 65%).

reactant | 1-(tert-Butoxycarbonyl)-4-piperidinone | 2.01 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | hydrogen chloride methanol | 4 mL | Cl.CO
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 4 mL | CO | CH4O
product | 4,4-dimethoxypiperidine hydrochloride | 238 mg, yield 65% | Cl.COC1(CCNCC1)OC | InChI=1S/C7H15NO2.ClH/c1-9-7(10-2)3-5-8-6-4-7;/h8H,3-6H2,1-2H3;1H
